US08871756B2
N-[(3-Aminooxetan-3-yl)methyl]-6-chloro-2-(2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-amine
The title compound was prepared in analogy to Example 57-1 in Scheme 23 by using 2,4,6-trichloroquinazoline, 3-(aminomethyl)oxetan-3-amine and 2,3,4,5-tetrahydro-1,4-benzothiazepine. MS obsd. (ESI+) [(M+H)+] 428, 1H NMR (400 MHz, DMSO-d6) δ ppm 8.18 (s, 1 H), 7.97 (s, 1 H), 7.70 (s, 1 H), 7.51-7.44 (m, 2 H), 7.27-7.21 (m, 2 H), 7.16-7.12 (t, J=7.2 Hz, 1 H), 4.93 (s, 2 H), 4.50-4.35 (m, 5 H), 3.97-3.80 (m, 2 H), 2.96-2.87 (m, 2 H), 2.69-2.67 (m, 1 H), 2.35-2.33 (m, 1 H), 2.10 (s, 2 H).

reactant | 2,4,6-trichloroquinazoline | ClC1=NC2=CC=C(C=C2C(=N1)Cl)Cl | C8H3Cl3N2
reactant | 3-(aminomethyl)oxetan-3-amine | NCC1(COC1)N | C4H10N2O
reactant | 2,3,4,5-tetrahydro-1,4-benzothiazepine | S1CCNCC2=C1C=CC=C2 | C9H11NS
product | N-[(3-Aminooxetan-3-yl)methyl]-6-chloro-2-(2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-amine | NC1(COC1)CNC1=NC(=NC2=CC=C(C=C12)Cl)N1CCSC2=C(C1)C=CC=C2 | C21H22ClN5OS
